US07071175B1
A solution of KOH (0.19 g; 3.4 mmol) in ethanol (6 mL) was added to a solution of 2-(Cis-4-tert-butoxycarbonylamino-cyclopent-2-enylmethyl)-malonic acid diethyl ester (1.15 g; 3.2 mmol) in ethanol (6 mL) at 0° C. The reaction mixture was stirred at room temperature overnight, concentrated and ice-water (400 mL) was added. The aqueous phase was washed with diethyl ether (the emulsion formed during the extraction was treated with brine in order to get good phase separation), acidified to pH 3 with 0.5 M HCl, and extracted with diethyl ether. The organic phase was dried and concentrated under reduced pressure to afford 2-(cis4-tert-butoxycarbonylamino-cyclopent-2-enylmethyl)-malonic acid monoethyl ester (0.86 g, 81%) as white crystals.

reactant | KOH | 3.4 mmol, 0.19 g | [OH-].[K+]
reactant | 2-(Cis-4-tert-butoxycarbonylamino-cyclopent-2-enylmethyl)-malonic acid diethyl ester | 3.2 mmol, 1.15 g | C(C)OC(C(C(=O)OCC)C[C@@H]1C=C[C@@H](C1)NC(=O)OC(C)(C)C)=O | C18H29NO6
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | 2-(cis4-tert-butoxycarbonylamino-cyclopent-2-enylmethyl)-malonic acid monoethyl ester | 0.86 g, 81% | C(C)OC(C(C(=O)O)C[C@@H]1C=C[C@@H](C1)NC(=O)OC(C)(C)C)=O | C16H25NO6
